US09126993B2
To a stirred solution of 4-fluorothiobenzamide (8.94 g, 57.6 mmol) in ethanol (70 mL) was added ethyl 4-chloroacetoacetate (7.8 mL, 58 mmol). The reaction was heated at reflux for 4 hours, treated with an addition aliquot of ethyl 4-chloroacetoacetate (1.0 mL, 7.4 mmol) and refluxed for an additional 3.5 hours. The reaction was then concentrated and the residue was partitioned between ethyl acetate (200 mL) and aqueous NaHCO3 (200 mL). The organic layer was combined with a backextract of the aqueous layer (ethyl acetate, 1×75 mL), dried (Na2SO4) and concentrated. The resulting amber oil was purified by flash chromatography using a hexane/ethyl acetate gradient to afford ethyl 2-(2-(4-fluorophenyl)thiazol-4-yl)acetate as a low melting, nearly colorless solid (13.58 g, 89%).

reactant | 4-fluorothiobenzamide | 57.6 mmol, 8.94 g | FC1=CC=C(C(=S)N)C=C1 | C7H6FNS
reactant | ethyl 4-chloroacetoacetate | 58 mmol, 7.8 mL | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | ethyl 4-chloroacetoacetate | 7.4 mmol, 1.0 mL | ClCC(CC(=O)OCC)=O | C6H9ClO3
solvent | ethanol | 70 mL | C(C)O | C2H6O
product | ethyl 2-(2-(4-fluorophenyl)thiazol-4-yl)acetate | FC1=CC=C(C=C1)C=1SC=C(N1)CC(=O)OCC | C13H12FNO2S
